US04039543
A suspension of 19.2 g. of sodium hydride (50% dispersion in oil) and 56.1 g. of dimethylsulfone in 200 ml. of absolute dimethylsulfoxide was stirred with the exclusion of moisture for 3 hours at 50° C. and then treated at 25° C. with 41.8 g. of methyl 3,5-bis-(N-methylacetamido)benzoate. The mixture was stirred for 18 hours at 25° C., diluted with 2 liters of water, adjusted to pH 7 with glacial acetic acid and extracted with 9 liters of ethyl acetate. The ethyl acetate solution was washed with 3 liters of water, dried over magnesium sulfate and evaporated in vacuo. Recrystallization of the residue from ethanol yielded 3',5'-bis(methylamino)-2-methylsulfonylacetophenone, having a melting point of 144°-146° C.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethylsulfone | CS(=O)(=O)C | C2H6O2S
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | methyl 3,5-bis-(N-methylacetamido)benzoate | CN(C(C)=O)C=1C=C(C(=O)OC)C=C(C1)N(C(C)=O)C | C14H18N2O4
solvent | water | 2 liters | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3',5'-bis(methylamino)-2-methylsulfonylacetophenone | CNC=1C=C(C=C(C1)NC)C(CS(=O)(=O)C)=O | C11H16N2O3S
